US07074800B1
Using an analogous procedure to that described in Example 34, 4-chloro-6-methoxy-7-(1-methylpiperidin-4-ylmethoxy)quinazoline (110 mg, 0.34 mmol), (prepared as described for the starting material in Example 10), was reacted with 2,3-dimethyl-5-hydroxyindole (66 mg, 0.41 mmol), (Arch. Pharm. 1972, 305, 159). The crude product was purified by column chromatography eluting with methanol/methylene chloride (1/9) followed by 3M ammonia in methanol/methanol/methylene chloride (5/15/80) to give 4-(2,3-dimethylindol-5-yloxy)-6-methoxy-7-(1-methylpiperidin-4-ylmethoxy)quinazoline (60 mg, 40%).

reactant | 4-chloro-6-methoxy-7-(1-methylpiperidin-4-ylmethoxy)quinazoline | 0.34 mmol, 110 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCC1CCN(CC1)C | C16H20ClN3O2
reactant | 2,3-dimethyl-5-hydroxyindole | 0.41 mmol, 66 mg | CC=1NC2=CC=C(C=C2C1C)O | C10H11NO
product | 4-(2,3-dimethylindol-5-yloxy)-6-methoxy-7-(1-methylpiperidin-4-ylmethoxy)quinazoline | 60 mg, 40% | CC=1NC2=CC=C(C=C2C1C)OC1=NC=NC2=CC(=C(C=C12)OC)OCC1CCN(CC1)C | C26H30N4O3
